* G:\My Drive\Graduate Reserach\LTSpice\Flyback\Active_Clamp_Flyback.asc
V1 N007 0 20
R2 N002 N007 1
M1 N006 0 0 0 NMOS
L1 N003 N006 1m
L2 0 N001 4m
C1 N004 0 10µ
R1 N004 0 10
L3 N003 N006 0.5m
R3 N002 N003 10000
L4 N002 N003 1µ
C2 N002 N005 10µ
M2 N005 N006 N006 N006 NMOS
M3 N008 N001 N001 N001 NMOS
R4 N004 N008 50
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 1
.backanno
.end

